US05629325
1-BOC-2-(S)-pyrrolidinemethanol
N-BOC-(S)-proline (Sigma Chemical Co., 12.97 g, 60.02 mmol) was dissolved in anhydrous THF and brought to 0° C. with stirring. Borane/THF complex was added dropwise via syringe over a 10 minute period. The reaction mixture was stirred at room temperature for 1 hour, then the reaction was quenched slowly with saturated NaHCO3 and stirred for an additional hour. The solvent was removed in vacuo, and the residue was diluted with H2O. The desired compound was extracted from the aqueous phase with Et2O (3×). The organic layer was then washed with brine (2×) dried (MgSO4) and evaporated.

reactant | N-BOC-(S)-proline | 60.02 mmol, 12.97 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
solvent | THF | C1CCOC1 | C4H8O
product | 1-BOC-2-(S)-pyrrolidinemethanol | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)CO | C10H19NO3
